US06911451B1
N-Boc-O—(3,5-dichloroisonicotinyl)-L-tyrosine Methyl Ester
A mixture of N-Boc-L-tyrosine methyl ester (11.95 g, 40.57 mmol), 3,5-dichloro-4-bromethyl pyridine (see International Patent Application No. PCT/GB99/00589; 10.74 g, 44.56 mmol) and caesium carbonate (14.52 g, 44.56 mmol) in DMF (100 ml) was stirred at room temperature overnight. The solvent was removed in vacuo and the residue partitioned between ethyl acetate and aqueous NaHCO3. The organic layer was washed with citric acid (10%×2), aqueous NaHCO3 (×2) and brine, dried (MgSO4) and concentrated in vacuo to give the title compound as a brown solid (18.0 g, 98%). δH (d6 DMSO) 8.72 (2H, s), 7.25 (1H, d, J 8.2 Hz), 7.19 (2H, d, 18.5 Hz), 6.97 (2H, d, 18.5 Hz), 5.20 (2H, s), 4.13 (1H, m), 3.61 (3H, s), 2.95 (1H, dd, J 13.7, 5.0 Hz), 2.82 (1H, m), 1.32 (9H, s) m/z (ESI, 60V) 477 (M++H).

reactant | N-Boc-L-tyrosine methyl ester | 40.57 mmol, 11.95 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)O)=O | C15H21NO5
reactant | 3,5-dichloro-4-bromethyl pyridine | 44.56 mmol, 10.74 g | ClC=1C=NC=C(C1CCBr)Cl | C7H6BrCl2N
reactant | caesium carbonate | 44.56 mmol, 14.52 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | N-Boc-O—(3,5-dichloroisonicotinyl)-L-tyrosine Methyl Ester | 18.0 g, 98% | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)OCC1=C(C=NC=C1Cl)Cl)=O | C21H24Cl2N2O5
